US08580794B2
(S)-tert-butyl 1-(2-fluoroethyl)pyrrolidin-3-ylcarbamate
The title compound was prepared by substituting 1-fluoro-2-iodoethane for 1,1-difluoro-2-iodoethane and (S)-tert-butyl pyrrolidin-3-ylcarbamate for (R)-tert-butyl pyrrolidin-3-ylcarbamate in EXAMPLE 180A.

reactant | 1,1-difluoro-2-iodoethane | FC(CI)F | C2H3F2I
reactant | (S)-tert-butyl pyrrolidin-3-ylcarbamate | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | (R)-tert-butyl pyrrolidin-3-ylcarbamate | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
product | (S)-tert-butyl 1-(2-fluoroethyl)pyrrolidin-3-ylcarbamate | FCCN1C[C@H](CC1)NC(OC(C)(C)C)=O | C11H21FN2O2
